US05659059
2.5 g (20 mmol) of n-propyl bromide was dripped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of tetrahydrofuran (hereafter abbreviated as "THF") to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 6.1 g (20 mmol) of 4'-(4-chloro-4-silacyclohexyl)-4-fluorobiphenyl to obtain 4'-(trans-4-n-propyl-4-silacyclohexyl)-4-fluorobiphenyl.

reactant | n-propyl bromide | 20 mmol, 2.5 g | CCCBr | C3H7Br
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 4'-(4-chloro-4-silacyclohexyl)-4-fluorobiphenyl | 20 mmol, 6.1 g | Cl[SiH]1CCC(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C17H18ClFSi
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4'-(trans-4-n-propyl-4-silacyclohexyl)-4-fluorobiphenyl | yield 91% | C(CC)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C20H25FSi
